US04870074
Preparation of 2-(2-hydroxyethyl)-4-benzylmorpholine
A solution of 2-ethoxycarbonylmethyl-4-benzylmorpholine (41 g) in diethyl ether (100 ml) is added dropwise to a stirred suspension of lithium aluminum hydride (59.2 g) in diethyl ether (150 ml). The reaction mixture is stirred at 25° C. for 1 hour. The excess of lithium aluminum hydride is decomposed by the successive addition of ethyl acetate and water. The insoluble materials are filtered off, and the filtrate is evaporated to give the title compound (34.4 g) as an oil. The starting material, 2-ethoxycarbonylmethyl-4-benzylmorpholine, is prepared according to the method of F. Loftus [Syn. Commun., 10, 59-73 (1980)].

reactant | 2-ethoxycarbonylmethyl-4-benzylmorpholine | 41 g | C(C)OC(=O)CC1CN(CCO1)CC1=CC=CC=C1 | C15H21NO3
reactant | lithium aluminum hydride | 59.2 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | water | O | H2O
solvent | diethyl ether | 100 ml | C(C)OCC | C4H10O
solvent | diethyl ether | 150 ml | C(C)OCC | C4H10O
product | 2-(2-hydroxyethyl)-4-benzylmorpholine | 34.4 g | OCCC1CN(CCO1)CC1=CC=CC=C1 | C13H19NO2
